US07205325B2
To a suspension of 50.0 g (260 mmol) 3-Benzo[1,3]dioxol-5-yl-acrylic acid in 300 ml tetrahydrofuran and 3.0 ml N,N-dimethyl formamide 44.5 ml (350 mmol) oxalyl chloride was added dropwise at 0° C. within 45 min. Stirring was continued at 0–5° C. for 30 min. and 2 h at room temperature thereafter. The resulting solution was cooled to 0–5° C. again and then added within 15 min. to 750 ml of an 25% aqueous solution of ammonia. After stirring for 30 min. the precipitated amide was collected, washed with water and dried at 40° C. in vacuo. 49.5 g (99%) 3-Benzo[1,3]dioxol-5-yl-acrylamide were obtained.

reactant | 3-Benzo[1,3]dioxol-5-yl-acrylic acid | 260 mmol, 50.0 g | O1COC2=C1C=CC(=C2)C=CC(=O)O | C10H8O4
reactant | N,N-dimethyl formamide | 350 mmol, 3.0 ml | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-Benzo[1,3]dioxol-5-yl-acrylamide | 49.5 g, 99% | O1COC2=C1C=CC(=C2)C=CC(=O)N | C10H9NO3
